.title
.option post
.temp 85
.lib "/home/SLIC02/Cadence_cyj/SPICE_Model/HL18G-SL3.7/HSPICE/HL18G-S3.7S.lib" tt_tn
************************************************************************
* auCdl Netlist:
* 
* Library Name:  Test
* Top Cell Name: SRAM_wa
* View Name:     schematic
* Netlisted on:  Mar  5 12:18:11 2026
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: Test
* Cell Name:    inv_1
* View Name:    schematic
************************************************************************

.SUBCKT inv_1 GND VDD Vin Vout
*.PININFO GND:B VDD:B Vin:B Vout:B
MNM0 Vout Vin GND GND nch_tn W=300n L=180n M=1.0
MPM0 Vout Vin VDD VDD pch_tn W=500n L=180n M=1.0
.ENDS

************************************************************************
* Library Name: Test
* Cell Name:    precharge
* View Name:    schematic
************************************************************************

.SUBCKT precharge B Bbar GND VDD charge_en
*.PININFO B:B Bbar:B GND:B VDD:B charge_en:B
MPM3 Bbar charge_en B VDD pch_tn W=1.4u L=180n M=1.0
MPM2 B charge_en Bbar VDD pch_tn W=1.4u L=180n M=1.0
MPM1 B charge_en VDD VDD pch_tn W=1.4u L=180n M=1.0
MPM0 Bbar charge_en VDD VDD pch_tn W=1.4u L=180n M=1.0
XI0 GND VDD charge_en charge_enb / inv_1
MNM1 Bbar charge_enb B GND nch_tn W=1.4u L=180n M=1.0
MNM0 B charge_enb Bbar GND nch_tn W=1.4u L=180n M=1.0
.ENDS

************************************************************************
* Library Name: SRAM
* Cell Name:    sense_amplifier
* View Name:    schematic
************************************************************************

.SUBCKT sense_amplifier B Bbar GND ReadOut ReadOutbar VDD sense
*.PININFO B:B Bbar:B GND:B ReadOut:B ReadOutbar:B VDD:B sense:B
MPM3 ReadOut ReadOutbar VDD VDD pch_tn W=810n L=180n M=1.0
MPM2 ReadOutbar ReadOut VDD VDD pch_tn W=810n L=180n M=1.0
MPM1 ReadOutbar sense Bbar VDD pch_tn W=1.305u L=180n M=1.0
MPM0 ReadOut sense B VDD pch_tn W=1.305u L=180n M=1.0
MNM2 net8 VDD GND GND nch_tn W=900n L=180n M=1.0
MNM1 ReadOutbar ReadOut net8 net8 nch_tn W=495n L=180n M=1.0
MNM0 ReadOut ReadOutbar net8 net8 nch_tn W=495n L=180n M=1.0
.ENDS

************************************************************************
* Library Name: Test
* Cell Name:    SRAM_6T
* View Name:    schematic
************************************************************************

.SUBCKT SRAM_6T B Bbar GND VDD W0
*.PININFO B:B Bbar:B GND:B VDD:B W0:B
MNM3 B W0 net12 GND nch_tn W=700n L=180n M=1.0
MNM2 Bbar W0 net3 GND nch_tn W=700n L=180n M=1.0
MNM1 net3 net12 GND GND nch_tn W=1.5u L=180n M=1.0
MNM0 net12 net3 GND GND nch_tn W=1.5u L=180n M=1.0
MPM1 net3 net12 VDD VDD pch_tn W=450n L=180n M=1.0
MPM0 net12 net3 VDD VDD pch_tn W=450n L=180n M=1.0
.ENDS

************************************************************************
* Library Name: Test
* Cell Name:    MUX_B
* View Name:    schematic
************************************************************************

.SUBCKT MUX_B B D7 GND VDD W_E
*.PININFO B:B D7:B GND:B VDD:B W_E:B
MNM3 net06 D7 GND GND nch_tn W=450n L=180n M=1.0
MNM0 net74 W_E GND GND nch_tn W=450n L=180n M=1.0
MNM2 net71 W_E GND GND nch_tn W=1.215u L=180n M=1.0
MNM1 B net06 net71 net71 nch_tn W=1.215u L=180n M=1.0
MPM3 net06 D7 VDD VDD pch_tn W=1.35u L=180n M=1.0
MPM2 B net06 net72 net72 pch_tn W=2.115u L=180n M=1.0
MPM1 net72 net74 VDD VDD pch_tn W=2.115u L=180n M=1.0
MPM0 net74 W_E VDD VDD pch_tn W=1.35u L=180n M=1.0
.ENDS

************************************************************************
* Library Name: Test
* Cell Name:    MUX_Bbar
* View Name:    schematic
************************************************************************

.SUBCKT MUX_Bbar Bbar D7 GND VDD W_E
*.PININFO Bbar:B D7:B GND:B VDD:B W_E:B
MNM2 net11 W_E GND GND nch_tn W=12.15u L=180n M=1.0
MNM1 Bbar D7 net11 net11 nch_tn W=12.15u L=180n M=1.0
MNM0 net8 W_E GND GND nch_tn W=450n L=180n M=1.0
MPM2 Bbar D7 net13 net13 pch_tn W=2.115u L=180n M=1.0
MPM1 net13 net8 VDD VDD pch_tn W=2.115u L=180n M=1.0
MPM0 net8 W_E VDD VDD pch_tn W=1.35u L=180n M=1.0
.ENDS

************************************************************************
* Library Name: Test
* Cell Name:    SRAM_wa
* View Name:    schematic
************************************************************************

.SUBCKT SRAM_wa GND Readout Readoutbar VDD VDD_LOW W0 cap_clamp data sense 
+ write_assist write_enable
*.PININFO GND:B Readout:B Readoutbar:B VDD:B VDD_LOW:B W0:B cap_clamp:B data:B 
*.PININFO sense:B write_assist:B write_enable:B
XI1 B Bbar GND VDD sense / precharge
CC1 B GND 25f $[CP]
CC2 Bbar GND 25f $[CP]
CC0 net4 write_assist 10f $[CP]
XI2 B Bbar GND Readout Readoutbar VDD sense / sense_amplifier
XI0 B Bbar net4 VDD_LOW W0 / SRAM_6T
XI3 B data GND VDD write_enable / MUX_B
XI4 Bbar data GND VDD write_enable / MUX_Bbar
MNM0 net4 cap_clamp GND GND nch_tn W=220n L=180n M=8.0
.ENDS
VVDD VDD 0 0.54
VGND GND 0 0
VVDD_LOW VDD_LOW 0 0.54
.vec 'stim.vec'
.tran 0.1n 250n
XSRAM_wa GND Readout Readoutbar VDD VDD_LOW W0 cap_clamp data sense 
+ write_assist write_enable SRAM_wa
.end
